US05888422
In analogy to Example 2, from 9,10-difluoro-2-bromo-7-octylphenanthrene and 10 mmol of hexylmagnesium bromide. The catalyst used is 0.2 mmol of 1,3-bis(diphenylphosphine)propanenickel(lI) chloride. Chromatography gives 9,10-difluoro-2-hexyl-7-octylphenanthrene.

reactant | 9,10-difluoro-2-bromo-7-octylphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1F)Br)CCCCCCCC | C22H23BrF2
reactant | hexylmagnesium bromide | 10 mmol | C(CCCCC)[Mg]Br
product | 9,10-difluoro-2-hexyl-7-octylphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1F)CCCCCC)CCCCCCCC | C28H36F2
